US07691850B2
b) 2-(hydroxymethyl)-5-({[4-(methoxy)phenyl]methyl}oxy)-4(1H)-pyridinone
To a suspension of 2-(hydroxymethyl)-5-({[4-(methoxy)phenyl]methyl}oxy)-4(1H)-pyrone (40 g, 153 mmol) in ethanol (105 mL) was added concentrated aqueous ammonia (295 mL) and refluxed for 18 hours. The mixture was cooled, then refrigerated for 3 hours, and cooled in an ice-bath for 45 minutes. The solid was filtered off, washed with cold ethanol, followed by cold petroleum ether and dried in vacuo to afford the product as brown solid (26.21 g, 66%).

reactant | 2-(hydroxymethyl)-5-({[4-(methoxy)phenyl]methyl}oxy)-4(1H)-pyrone | 153 mmol, 40 g | OCC=1OC=C(C(C1)=O)OCC1=CC=C(C=C1)OC | C14H14O5
reactant | ammonia | 295 mL | N | H3N
solvent | ethanol | 105 mL | C(C)O | C2H6O
product | 2-(hydroxymethyl)-5-({[4-(methoxy)phenyl]methyl}oxy)-4(1H)-pyridinone | 26.21 g, 66% | OCC=1NC=C(C(C1)=O)OCC1=CC=C(C=C1)OC | C14H15NO4
